### PR TITLE
Complete the proof of StringGenState.WFMono

### PR DESCRIPTION
**Pull request by thanhnguyen-aws**
*Description of changes:* Complete the proof of StringGenState.WFMono

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

**Review by atomb — DISMISSED** [review]
Nice! One down, 11 to go!

One thing that occurs to me is that we may want to eventually move to having program-related definitions in one module and a separate module containing theorems that imports the first. But that could be a more general change across the board in a future PR.

File: Strata/DL/Util/StringGen.lean [hunk 1]
```diff
@@ -95,49 +95,243 @@ theorem StringGenState.subset : gen pf σ = (n, σ') → σ ⊆ σ' := by
...
+  simp [List.suffix_iff_eq_drop, Hc] at *
+  rw [← Hsuf] at Hsuf'
+  simp [String.ext_iff, Hsuf']
 
-  The main argument for the uniqueness of the generated string is that, if the
-  unique numbers at the end of all strings are unique, then the strings
-  themselves must be unique as well.  Some injectivity theorems about
-  `Nat.toString` might be needed to prove the admitted cases in this theorem.
--/
 theorem StringGenState.WFMono :
```
Comment (shigoel) [inline Strata/DL/Util/StringGen.lean:318]:
```suggestion
/--
The uniqueness of the generated string is guaranteed by the following: given that the numbers at the end of all strings are unique, then the strings themselves must be unique. 
-/
theorem StringGenState.WFMono :
```

Could we retain a part of the docString?

**Comment by shigoel** [comment]
Thanks, @thanhnguyen-aws! Left a tiny suggestion, but looks great.

**Review by shigoel — APPROVED** [review]

**Review by atomb — APPROVED** [review]
